US09359362B2
(rac)-Ethyl 7-(4-cyanophenyl)-2,5-dimethyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carboxylate
(rac)-Ethyl 7-(4-cyanophenyl)-2,5-dimethyl-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carboxylate (50 mg, 0.15 mmol), 3-(trifluoromethyl)phenylboronic acid (88 mg, 0.46 mmol, 3 eq.), anhydrous copper(II) acetate (140 mg, 0.77 mmol, 5 eq.) and molecular sieve (80 mg, 4 Å) were initially charged. Under an atmosphere of argon protective gas, abs. dichloromethane (4 ml), pyridine (125 μl, 1.55 mmol, 10 eq.) and triethylamine (108 μl, 0.77 mmol, 5 eq.) were added. After 24 h of stirring, the mixture was filtered through kieselguhr and the filtrate was concentrated under reduced pressure. The residue was purified by preparative HPLC (Gromsil C18 column, 30×250 mm; mobile phase: acetonitrile-water-0.05% TFA). After lyophilization, the product was obtained as a solid (4.5 mg, 6% of theory).

reactant | (rac)-Ethyl 7-(4-cyanophenyl)-2,5-dimethyl-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carboxylate | 0.15 mmol, 50 mg | C(#N)C1=CC=C(C=C1)C1C(=C(NC=2N1N=C(N2)C)C)C(=O)OCC | C17H17N5O2
reactant | 3-(trifluoromethyl)phenylboronic acid | 0.46 mmol, 88 mg, 3 eq. | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
reactant | pyridine | 1.55 mmol, 125 μl, 10 eq. | N1=CC=CC=C1 | C5H5N
reactant | triethylamine | 0.77 mmol, 108 μl, 5 eq. | C(C)N(CC)CC | C6H15N
catalyst | copper(II) acetate | 0.77 mmol, 140 mg, 5 eq. | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | (rac)-Ethyl 7-(4-cyanophenyl)-2,5-dimethyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carboxylate | C(#N)C1=CC=C(C=C1)C1C(=C(N(C=2N1N=C(N2)C)C2=CC(=CC=C2)C(F)(F)F)C)C(=O)OCC | C24H20F3N5O2
